US09403801B2
Step 2) 1,5-dimethyl-1H-pyrazol-4-amine hydrochloride
To a solution of 1,5-dimethyl-4-nitro-1H-pyrazole (1.01 g, 7.2 mmol) in MeOH (15 mL) was added Pd/C (10%, 0.20 g) and concentrated HCl (1 mL, 12 mmol) in a high pressure autoclave under 2 MPa H2. The reaction mixture was stirred at rt overnight and filtered. The filtrate was concentrated in vacuo to give the title compound as brown oil (763.0 mg, 95.9%).

reactant | 1,5-dimethyl-4-nitro-1H-pyrazole | 7.2 mmol, 1.01 g | CN1N=CC(=C1C)[N+](=O)[O-] | C5H7N3O2
reactant | HCl | 12 mmol, 1 mL | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 1,5-dimethyl-1H-pyrazol-4-amine hydrochloride | 763.0 mg, 95.9% | Cl.CN1N=CC(=C1C)N | InChI=1S/C5H9N3.ClH/c1-4-5(6)3-7-8(4)2;/h3H,6H2,1-2H3;1H
